US04789677
(b) 4-Fluoro-N-methyl-N-[2-[N-methyl-N-[4-(7-trifluoromethyl-4-quinolinylamino)benzoyl]amino]ethyl]benzenesulphonamide
4-(7-Trifluoromethyl-4-quinolinylamino)benzoyl chloride hydrochloride (2.0 g) was added portionwise to a well-stirred mixture of sodium carbonate (8.0 g) and 4-fluoro-N-methyl-N-[2-(methylamino)ethyl]benzenesulphonamide (1.48 g) in chloroform (60 ml) and water (70 ml) at about 10° C. The mixture was warmed to room temperature and, after 1 hour, the chloroform layer was separated, dried (MgSO4) and evaporated under reduced pressure to give an oil, which crystallised on standing. Recrystallisation from ethanol/water gave a white solid, which was further purified by recrystallisation from ethanol, giving the pure title compound (1.4 g), m.p. 191°-3° C.

reactant | 4-(7-Trifluoromethyl-4-quinolinylamino)benzoyl chloride hydrochloride | 2.0 g | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)Cl)C=C1)(F)F
reactant | sodium carbonate | 8.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-fluoro-N-methyl-N-[2-(methylamino)ethyl]benzenesulphonamide | 1.48 g | FC1=CC=C(C=C1)S(=O)(=O)N(CCNC)C | C10H15FN2O2S
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 70 ml | O | H2O
product | 4-Fluoro-N-methyl-N-[2-[N-methyl-N-[4-(7-trifluoromethyl-4-quinolinylamino)benzoyl]amino]ethyl]benzenesulphonamide | 1.4 g | FC1=CC=C(C=C1)S(=O)(=O)N(CCN(C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)C)C | C27H24F4N4O3S
